US04259334
1-(2-Phenyl-propyl)piperazine
A solution of piperazine (344 g), β-bromoisopropylbenzene (199 g) in water (1 liter) and ethanol (0.35 liter) is refluxed for 24 hours. After cooling, the resulting amine is extracted with 3×0.5 liter methylene chloride. After washing with water and evaporation of the solvent in vacuo, the resulting 2-phenylpropyl piperazine is distilled; b.p.=163°-165° C./15 mm Hg.

reactant | piperazine | 344 g | N1CCNCC1 | C4H10N2
reactant | β-bromoisopropylbenzene | 199 g | CC(CBr)C1=CC=CC=C1 | C9H11Br
solvent | water | 1 liter | O | H2O
solvent | ethanol | 0.35 liter | C(C)O | C2H6O
product | 1-(2-Phenyl-propyl)piperazine | C1(=CC=CC=C1)C(CN1CCNCC1)C | C13H20N2
